US06251925B1
2-(Trifluoromethanesulfonyl)oxy-3-pyridinecarboxylic acid methyl ester
To a stirred, cooled (−78° C.) solution of 2-hydroxy-3-pyridinecarboxylic acid methyl ester (1.12 g) in dichloromethane was added diisopropylamine (1.04 g) dropwise. The mixture was stirred for 20 min and then trifluoromethanesulfonic anhydride (2.18 g) was added dropwise. After 30 min, the mixture was quenched with water, warmed to room temperature and extracted with dichloromethane. The organic layer was dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue was chromatographed on silica gel eluting with 1:4 ethyl acetate in hexane to provide the title compound (1.66 g) as a white solid. Electrospray MS (positive ion): (M+H) 307.

reactant | 2-hydroxy-3-pyridinecarboxylic acid methyl ester | 1.12 g | COC(=O)C=1C(=NC=CC1)O | C7H7NO3
reactant | diisopropylamine | 1.04 g | C(C)(C)NC(C)C | C6H15N
reactant | trifluoromethanesulfonic anhydride | 2.18 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(Trifluoromethanesulfonyl)oxy-3-pyridinecarboxylic acid methyl ester | 1.66 g | COC(=O)C=1C(=NC=CC1)OS(=O)(=O)C(F)(F)F | C8H6F3NO5S
